US06706723B2
Following the procedure outlined for the preparation of Example 1 4-(4-hydroxy-phenoxy)-N-methyl-benzamide (0.14 g, 0.58 mmol) was reacted with 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione (0.16 g, 0.58 mmol), 1,5,7-trazabicyclo[4.4.0]dec-5-ene bound to polystyrene crosslinked with 2% DVB (PTBD, Fluka, 0.40 g) and 2.0 mL of acetonitrile, affording 4-{4-[5-(2-ethoxy-ethyl)-2,4,6-trioxo-hexahydro-pyrimidin-5-yloxy]-phenoxy}-N-methyl-benzamide (0.040 g) as a colorless solid.

reactant | 4-(4-hydroxy-phenoxy)-N-methyl-benzamide | 0.58 mmol, 0.14 g | OC1=CC=C(OC2=CC=C(C(=O)NC)C=C2)C=C1 | C14H13NO3
reactant | 5-bromo-5-(2-ethoxy-ethyl)-pyrimidine-2,4,6-trione | 0.58 mmol, 0.16 g | BrC1(C(NC(NC1=O)=O)=O)CCOCC | C8H11BrN2O4
reactant | dec-5-ene | CCCCC=CCCCC | C10H20
reactant | PTBD | C1(C(OC(O1)(C(F)(F)F)C(F)(F)F)(F)F)(C2(C(OC(O2)(C(F)(F)F)C(F)(F)F)(F)F)F)F | C10F18O4
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
product | 4-{4-[5-(2-ethoxy-ethyl)-2,4,6-trioxo-hexahydro-pyrimidin-5-yloxy]-phenoxy}-N-methyl-benzamide | 0.040 g | C(C)OCCC1(C(NC(NC1=O)=O)=O)OC1=CC=C(OC2=CC=C(C(=O)NC)C=C2)C=C1 | C22H23N3O7
